US04379923
0.63 ml (3.0 mmoles) of hexamethyldisilazane was added to a refluxing mixture of 0.21 g (1.5 mmole) of 4,6 dimethyl-2-mercaptopyrimidine, 5 mg (0.01 mmole) of di-4-nitrophenyl N-(4-toluenesulfonyl)phosphoramidate and 10 ml of toluene and refluxing was continued for 1.5 hours. Then the toluene and excess hexamethyldisilazane were evaporated and the residue was dissolved in 10 ml of dichloromethane. The solution of 4,6-dimethyl-2-trimethylsilylthiopyrimidine thus obtained, a solution of 143 mg (0.23 mmole) of trichloroethyl 7-phenoxyacetamido-3-bromomethyl-3-cephem-4-carboxylate-1-oxide (purity 92%) in 10 ml of dichloromethane was added with ice cooling and the reaction was complete within 2 minutes. After stirring for 15 minutes more, 2 ml of ethanol were added and the mixture was evaporated to dryness. The product was separated from excess thiol by dissolving it in 50 ml of phosphate buffer of pH 8.0 which was layered with 100 ml of ethyl acetate. The organic layer was separated and the water layer was extracted with 3 portions of 30 ml of ethyl acetate. The combined extracts were dried, filtered and evaporated to dryness. The residue was triturated with diethyl ether and the solid was collected by filtration and was washed with ether. The product was vacuum-dried at room temperature to obtain 0.13 g (89%) of trichloroethyl 7-phenoxyacetamido-3-(4,6-dimethylpyrimidinyl-2)-thiomethyl-3-cephem-4-carboxylate-1-oxide.

reactant | hexamethyldisilazane | 3.0 mmoles, 0.63 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4,6 dimethyl-2-mercaptopyrimidine | 1.5 mmole, 0.21 g | CC1=NC(=NC(=C1)C)S | C6H8N2S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4,6-dimethyl-2-trimethylsilylthiopyrimidine | CC1=NC(=NC(=C1)C)S[Si](C)(C)C | C9H16N2SSi
